*$
*//-----------------------------------------------------------------------//
*//   Part No.    : HHXC350ARA271MJA0G
*//   Date        : 2018/02/13
*//   Update 	  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXC350ARA271MJA0G_20deg-C 1 2

C1 4 2 1.93e-04
C2 5 2 2.35e-05
C3 6 2 1.06e-05
R1 3 4 1.46e-02
R2 4 5 2.06e-01
R3 5 6 9.50e-01
L1 1 3 4.50e-09

.ENDS
*$
